US08975254B2
(S)-2-amino-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide
The compound was prepared using the method of Example 34(d). (S)-4-(1-(2-amino-propyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (1.00 g; 3.84 mmol), 2-aminothiazole-4-carboxylic acid (0.66 g; 4.66 mmol), 1.00 ml of DIPEA, HOBt (0.26 g; 1.9 mmol) and EDCI (1.10 g; 5.75 mmol) were used as starting materials. Purification by isopropanol:toluene crystallization afforded 0.93 g (63%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.10 (d, 3H), 4.22-4.45 (m, 3H), 6.96 (d, 1H), 7.04 (broad s, 2H), 7.15 (s, 1H), 7.82 (d, 1H), 7.90 (d, 1H), 7.97 (s, 1H), 8.08 (s, 1H).

reactant | (S)-4-(1-(2-amino-propyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 3.84 mmol, 1.00 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 2-aminothiazole-4-carboxylic acid | 4.66 mmol, 0.66 g | NC=1SC=C(N1)C(=O)O | C4H4N2O2S
reactant | DIPEA | 1.00 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 1.9 mmol, 0.26 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 5.75 mmol, 1.10 g | CCN=C=NCCCN(C)C | C8H17N3
product | (S)-2-amino-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide | 0.93 g, 63% | NC=1SC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C17H15ClN6OS
